US07244725B2
A solution of sodium borohydride (300 mg, 7.93 mmol) dissolved in a minimum amount of ice cold water was added dropwise at 0° C. to a solution of 6-Bromo-isochroman-4-one (1.49 g, 6.56 mmol) in absolute ethanol (27.0 mL). The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The phases were separated and the organic phase washed with water and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to yield 6-Bromo-isochroman-4-ol (1.44 g, 95%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.40 (dd, J=8.3, 1.8 Hz, 1H), 7.30 (d, J=8.3 Hz, 1H), 7.15 (d, J=1.8 Hz, 1H), 4.63 (ABq, J=15.3 Hz, 2H), 4.49 (d, J=8.6 Hz, 1H), 4.07 (dd, J=12.0, 2.8 Hz, 1H), 3.83 (dd, J=12.0, 2.8 Hz, 1H), 2.60 (d, J=9.2 Hz, 1H).

reactant | sodium borohydride | 7.93 mmol, 300 mg | [BH4-].[Na+]
reactant | 6-Bromo-isochroman-4-one | 6.56 mmol, 1.49 g | BrC=1C=C2C(COCC2=CC1)=O | C9H7BrO2
solvent | ethanol | 27.0 mL | C(C)O | C2H6O
product | 6-Bromo-isochroman-4-ol | 1.44 g, 95% | BrC=1C=C2C(COCC2=CC1)O | C9H9BrO2
